US07700641B2
A. Synthesis of 6-[(diphenylmethylene)amino]-1′-pentylspiro[1-benzofuran-3,3′-indol]-2′(1′H)-one
To a solution of 6-bromo-1′-pentylspiro[1-benzofuran-3,3′-indol]-2′(1′H)-one (0.10 g, 0.26 mmol) in anhydrous toluene (5.00 mL) was added benzophenone imine (0.09 g, 0.52 mmol), sodium t-butoxide (0.03 g, 0.36 mmol), tris(dibenzylideneacetone) dipalladium(0) (0.01 g, 0.07 mmol) and (±)-2,2′-bis(diphenylphosphino)-1,1′-binaphthalene (0.12 g, 0.19 mmol). The reaction mixture was refluxed for 16 h, cooled down to ambient temperature, diluted with dichloromethane (50.0 mL) and filtered through a celite bed. The filtrate was concentrated in vacuo to dryness to give the title compound which was used in next step without purification.

reactant | 6-bromo-1′-pentylspiro[1-benzofuran-3,3′-indol]-2′(1′H)-one | 0.26 mmol, 0.10 g | BrC1=CC2=C(C=C1)C1(C(N(C3=CC=CC=C13)CCCCC)=O)CO2 | C20H20BrNO2
reactant | benzophenone imine | 0.52 mmol, 0.09 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
reactant | sodium t-butoxide | 0.36 mmol, 0.03 g | CC(C)([O-])C.[Na+]
reactant | (±)-2,2′-bis(diphenylphosphino)-1,1′-binaphthalene | 0.19 mmol, 0.12 g | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
solvent | toluene | 5.00 mL | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | 50.0 mL | ClCCl | CH2Cl2
catalyst | tris(dibenzylideneacetone) dipalladium(0) | 0.07 mmol, 0.01 g | [Pd].[Pd].C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1
product | 6-[(diphenylmethylene)amino]-1′-pentylspiro[1-benzofuran-3,3′-indol]-2′(1′H)-one | C1(=CC=CC=C1)C(C1=CC=CC=C1)=NC1=CC2=C(C=C1)C1(C(N(C3=CC=CC=C13)CCCCC)=O)CO2 | C33H30N2O2
